US07893081B2
Step 10: N-[(2R)-1,4-dioxan-2-ylmethyl]-N-methyl-N′-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]sulfamide (Compound 1)
N′-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-[(2R) 1,4-dioxan-2-ylmethyl]-N-methylsulfamide (0.500 g, 1.11 mmol), 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (0.692 g, 3.33 mmol), Pd2(dba)3 (0.051 g, 0.056 mmol), (tBu3)PBF4 (0.032 g, 0.11 mmol) and potassium fluoride (0.212 g, 3.66 mmol) were combined in a dry tube. 5 mL dry DMF was added and argon was bubbled through the solution for five minutes. The tube was sealed and heated in the Biotage Initiator series microwave to 135° C. for 20 minutes. The solution was diluted with ethyl acetate and washed with saturated sodium bicarbonate, water, and brine. The organic layer was dried with magnesium sulfate, filtered, concentrated in vacuo, and purified by silica chromatography (0-100% ethyl acetate/hexanes gradient followed by 0-10% methanol/dichloromethane gradient) to afford the crude compound. The crude material was crystallized from a mixture of 10 mL methanol, 40 mL dichloromethane, and 70 mL hexanes to afford the title compound. 1H NMR (600 MHz, D6-DMSO) δ 10.52 (s, 1H); 9.20 (d, 1H); 8.55 (d, 1H); 8.45 (s, 1H); 8.13 (s, 1H); 7.95 (d, 1H); 7.75 (d, 1H); 7.55 (d, 1H); 7.32 (d, 1H); 7.22 (d, 1H); 3.88 (s, 3H); 3.64-3.60 (m, 2H); 3.58-3.54 (m, 1H); 3.54-3.50 (m, 1H); 3.44-3.40 (m, 1H); 3.38-3.34 (m, 1H); 3.14-3.10 (m, 3H); 2.77 (s, 3H). LRMS (APCI) calc'd for (C24H26N5O5S) [M+H]+, 496.2; found, 496.2.

reactant | N′-(3-chloro-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl)-N-[(2R) 1,4-dioxan-2-ylmethyl]-N-methylsulfamide | 1.11 mmol, 0.500 g | ClC=1C=C2C(=NC1)C=CC1=C(C2=O)C=C(C=C1)NS(=O)(=O)N(C)C[C@H]1OCCOC1 | C20H20ClN3O5S
reactant | 1-methyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 3.33 mmol, 0.692 g | CN1N=CC(=C1)B1OC(C(O1)(C)C)(C)C | C10H17BN2O2
reactant | potassium fluoride | 3.66 mmol, 0.212 g | [F-].[K+]
catalyst | Pd2(dba)3 | 0.056 mmol, 0.051 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-[(2R)-1,4-dioxan-2-ylmethyl]-N-methyl-N′-[3-(1-methyl-1H-pyrazol-4-yl)-5-oxo-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-7-yl]sulfamide | O1[C@@H](COCC1)CN(S(=O)(=O)NC=1C=CC2=C(C(C=3C(=NC=C(C3)C=3C=NN(C3)C)C=C2)=O)C1)C | C24H25N5O5S
